US04346040
Anethole is synthesized starting from anisaldehyde in the presence of potassium carbonate and ethyle triphenyl phosphonium bromide in dioxane-1,4.

reactant | anisaldehyde | COC=1C=CC(=CC1)C=O | C8H8O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | triphenyl phosphonium bromide | [Br-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
solvent | dioxane-1,4 | C1COCCO1 | C4H8O2
product | Anethole | C1(=CC=C(C=CC)C=C1)OC | C10H12O
